US06476067B1
A solution of 2-(R,S)-benzyl-3-benzyloxyamino-propionic acid (7.8 g, 27.4 mmol) in formic acid (40 mL) was cooled in an ice-water bath and treated dropwise with acetic anhydride (15 mL). The reaction was allowed to warm to room temperature and stirred for 18 hours. The reaction mixture was diluted with dichloromethane (150 mL) and partitioned with water (100 mL). The organic layer was separated, washed with brine, dried over magnesium sulphate, filtered and concentrated under reduced pressure to yield 2-(R,S)-benzyl-3-(benzyloxy-formyl-amino)-propionic acid as a colourless oil (7.8 g, 91%). 1H-NMR; δ (CDCl3), 7.87-7.16 (10H, m), 4.924.66 (2H, m), 4.03-3.90 (2H, m), 3.17-2.93 (2H, m), 2.78-2.70 (1H, m).

reactant | 2-(R,S)-benzyl-3-benzyloxyamino-propionic acid | 27.4 mmol, 7.8 g | C(C1=CC=CC=C1)C(C(=O)O)CNOCC1=CC=CC=C1 | C17H19NO3
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 40 mL | C(=O)O | CH2O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-(R,S)-benzyl-3-(benzyloxy-formyl-amino)-propionic acid | 7.8 g, 91% | C(C1=CC=CC=C1)C(C(=O)O)CN(C=O)OCC1=CC=CC=C1 | C18H19NO4
